US06127386
168b. 6-Chloro-5-ethenyl-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)pyridine
To a solution of 6-chloro-5-ethenyl-3-(2-(R)-pyrrolidinylmethoxy)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 173-175° C.; 1H NMR (D2O) δ 2.04-2.18 (m, 2H), 2.23 (m, 1H), 2.40 (m, 1H), 3.04 (s, 3H), 3.29 (m, 1H), 3.73 (m, 1H), 3.95 (m, 1H), 4.37 (dd, 1H, J=6.0, 11.0 Hz), 4.53 (dd, 1H, J=3.0, 11.0 Hz), 5.61 (d, 1H, J=11.0 Hz), 5.94 (d, 1H, J=17.5 Hz), 7.02 (dd, 1H, J=11.0, 17.5 Hz), 7.73 (d, 1H, J=3.0 Hz), 8.04 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 253 (M+H)+. Anal. Calcd for C13H17ClN2O.1.1 HCl: C, 53.32; H, 6.23; N, 9.57. Found: C, 53.51; H, 6.48; N, 9.20. [α]25D +7.4 (c 0.66, MeOH).

reactant | 6-chloro-5-ethenyl-3-(2-(R)-pyrrolidinylmethoxy)pyridine | ClC1=C(C=C(C=N1)OC[C@@H]1NCCC1)C=C | C12H15ClN2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 6-Chloro-5-ethenyl-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)pyridine | ClC1=C(C=C(C=N1)OC[C@@H]1N(CCC1)C)C=C | C13H17ClN2O
